US04610987
1.5 g of 6-chloro-7-pyrrolidino-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one dihydrochloride was dissolved in 50 ml of methanol and catalytically reduced in the presence of 250 mg of 10% palladium-on-charcoal at ambient temperature under atmospheric pressure. After completion of the reaction, the catalyst was removed by filtration, and the filtrate was dried to a solid under reduced pressure to obtain 0.84 g of 7-pyrrolidino-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one dihydrochloride (melting point: above 280° C.).

reactant | 6-chloro-7-pyrrolidino-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one dihydrochloride | 1.5 g | Cl.Cl.ClC1=C2CN3C(=NC2=CC=C1N1CCCC1)NC(C3)=O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | 250 mg | [Pd] | Pd
product | 7-pyrrolidino-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one dihydrochloride | 0.84 g | Cl.Cl.N1(CCCC1)C=1C=C2CN3C(=NC2=CC1)NC(C3)=O | InChI=1S/C14H16N4O.2ClH/c19-13-9-18-8-10-7-11(17-5-1-2-6-17)3-4-12(10)15-14(18)16-13;;/h3-4,7H,1-2,5-6,8-9H2,(H,15,16,19);2*1H
